US08426408B2
(1S,2S,3R,4R)-3-{[5-chloro-2-({1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazol-4-yl}amino)pyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide
(1S,2S,3R,4R)-3-(2,5-Dichloropyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide (100 mg, 0.334 mmol) and (R)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate (116 mg, 0.435 mmol) were combined with 2-propanol (2 ml) and 4N HCl in dioxane (0.084 ml, 0.334 mmol) in a sealed tube and the reaction was heated to 85° C. for 4 hours. The reaction mixture was concentrated to dryness, and the residue was treated with trifluoroacetic acid (3 mL). After stirring at room temperature for 30 minutes, the reaction mixture was again concentrated to dryness and the residue was suspended in saturated aqueous NaHCO3 (5 mL). The resulting mixture was extracted with CH2Cl2 (2×10 mL) and ethyl acetate (2×10 mL). The organic extracts were combined, dried (Na2SO4) filtered, and concentrated. The residue was purified by flash chromotography (Analogix, 4 g column, 15 mL/minutes, 0 to 20% methanol (containing 5% NH4OH)/CH2Cl2 over 25 minutes) to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.30-1.44 (m, 2H) 1.53-1.81 (m, 3H) 2.11 (d, J=8.82 Hz, 1H) 2.51-2.56 (m, 1H) 2.75-2.85 (m, 3H) 2.86-2.89 (m, 1H) 3.37-3.47 (m, 1H) 3.93-4.01 (m, 2H) 4.12 (t, J=7.12 Hz, 1H) 6.31-6.39 (m, 2H) 7.25 (s, 1H) 7.52 (s, 1H) 7.65-7.83 (m, 3H) 7.89 (s, 1H) 9.10 (s, 1H); MS (ESI(+)) m/e 429 (M+H)+.

reactant | (1S,2S,3R,4R)-3-(2,5-Dichloropyrimidin-4-ylamino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | 0.334 mmol, 100 mg | ClC1=NC=C(C(=N1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C12H12Cl2N4O
reactant | (R)-tert-butyl 2-((4-amino-1H-pyrazol-1-yl)methyl)pyrrolidine-1-carboxylate | 0.435 mmol, 116 mg | NC=1C=NN(C1)C[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C13H22N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.334 mmol, 0.084 ml | O1CCOCC1 | C4H8O2
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | (1S,2S,3R,4R)-3-{[5-chloro-2-({1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazol-4-yl}amino)pyrimidin-4-yl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C[C@@H]1NCCC1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C20H25ClN8O
